US07476759B2
4-Amino-2-[4-(2-cyclohexylethoxy)phenyl]-4-oxobutanoic acid
Aqueous sodium hydroxide solution (2.0 M; 50 μL, 100 μmol) was added in one portion to a stirred solution of 4-amino-2-(4-hydroxyphenyl)-4-oxobutanoic acid (10 mg, 47 μmol) in ethanol (1 mL) at room temperature. After stirring for 10 min cyclohexylethylbromide (9.0 mg, 47 μmol) was added and the resulting mixture heated at reflux for 12 h. On cooling to room temperature the volatiles were evaporated and the residue purified by mass directed auto-preparative reverse phase HPLC to give the title compound as a white solid (2.1 mg, 14%). LC/MS: 3.34 min; z/e 320, calcd (M+1) 320. 1H NMR (400 MHz: MeOD): 7.20 (2H), 6.85 (2H), 4.00 (3H), 2.95 (1H), 2.55 (1H), 1.70 (6H), 1.50 (1H), 1.25 (4H), 0.92 (2H). The absolute regiochemistry of the product was unambiguously assigned using an HMBC correlation experiment.

reactant | sodium hydroxide | 100 μmol, 2.0 M, 50 μL | [OH-].[Na+]
reactant | 4-amino-2-(4-hydroxyphenyl)-4-oxobutanoic acid | 47 μmol, 10 mg | NC(CC(C(=O)O)C1=CC=C(C=C1)O)=O | C10H11NO4
reactant | cyclohexylethylbromide | 47 μmol, 9.0 mg | C1(CCCCC1)CCBr | C8H15Br
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 4-Amino-2-[4-(2-cyclohexylethoxy)phenyl]-4-oxobutanoic acid | 2.1 mg, 14% | NC(CC(C(=O)O)C1=CC=C(C=C1)OCCC1CCCCC1)=O | C18H25NO4
